US08048899B2
A solution of 90 g (516 mmol) of thioacetic acid S-(tetrahydro-pyran-4-ylmethyl) ester in toluene (500 mL) under nitrogen atmosphere is cooled in an ice-bath. A solution of sodium ethoxide in ethanol (21%, 231 mL) is added and the reaction stirred for 50 min. Then 76 mL (516 mmol) of ethyl α-bromoisobutyrate are added and the reaction stirred for 1 h. To the reaction mixture are added glacial acetic acid (8.9 mL) and water (500 mL). The organic layer is separated and washed with water (500 mL). A 3-neck round bottom flask is charged with water (500 mL), Oxone® (477 g, 775 mmol) and tetrabutylammonium-hydrogensulfate (5 g, 15 mmol) and the organic layer is added. The biphasic reaction mixture is stirred for 2 d at room temperature. The solids are removed by filtration and the layers of the filtrate are separated. The organic layer is washed with water (2×500 mL). The solvent is removed under reduced pressure and further azeotroped with toluene to give 125 g of 2-methyl-2-(tetrahydro-pyran-4-ylmethanesulfonyl)-propionic acid ethyl ester. Yield: 87%; ES-MS: m/z 279 [M+H]; 1H NMR (250 MHz, CHLOROFORM-d) δ ppm 1.32 (3H, t, J=7.16 Hz), 1.39-1.59 (2H, m), 1.64 (6H, s), 1.81-1.97 (2H, m), 2.29-2.53 (1H, m), 3.15 (2H, d, J=6.55 Hz), 3.45 (2H, dd, J=1.83, 0.30 Hz), 3.88-4.03 (2H, m), 4.26 (2H, d, J=7.16 Hz)

reactant | thioacetic acid S-(tetrahydro-pyran-4-ylmethyl) ester | 516 mmol, 90 g | O1CCC(CC1)CSC(C)=O | C8H14O2S
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | ethyl α-bromoisobutyrate | 516 mmol, 76 mL | BrC(C(=O)OCC)(C)C | C6H11BrO2
reactant | Oxone | OOS(=O)[O-].[K+]
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 231 mL | C(C)O | C2H6O
catalyst | tetrabutylammonium hydrogensulfate | 15 mmol, 5 g | C(CCC)[N+](CCCC)(CCCC)CCCC.S(=O)(=O)(O)[O-]
solvent | water | 500 mL | O | H2O
solvent | water | 500 mL | O | H2O
solvent | acetic acid | 8.9 mL | C(C)(=O)O | C2H4O2
product | 2-methyl-2-(tetrahydro-pyran-4-ylmethanesulfonyl)-propionic acid ethyl ester | 125 g, Yield: 87% | C(C)OC(C(C)(S(=O)(=O)CC1CCOCC1)C)=O | C12H22O5S
